US08791303B2
To a stirred suspension of methoxymethyl triphenylphosphonium chloride (13.8 g, 40 mmol) in dry THF (80 ml) is added dropwise a solution of lithium diisopropylamide (24.4 ml, 44 mmol, 1.8 M in hexane/THF/ethylbenzene), at 0-5° C. The resulting reaction mixture is stirred for 30 minutes and then cooled to −78° C. At this temperature, a solution of 4-benzyloxy-cyclohexanone (6.1 g, mmol) in tetrahydrofuran (30 ml) is added over a period of 30 minutes. Once the addition is completed the reaction mixture is stirred at −78° C. for 1 hour and then allowed to warm to room temperature and stirred overnight. The reaction mixture is then diluted to pH=2 with a 2N aqueous solution of hydrochloric acid and stirred for 3 hours at room temperature. The reaction was diluted with water and extracted with ethyl acetate (2×100 ml). The combined organic extracts are dried over magnesium sulphate, filtered and evaporated under reduced pressure. The residue is purified by flash chromatography to give 4-benzyloxy-cyclohexanecarbaldehyde (5.7 g).

reactant | methoxymethyl triphenylphosphonium chloride | 40 mmol, 13.8 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | lithium diisopropylamide | 44 mmol, 1.8 M, 24.4 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | 4-benzyloxy-cyclohexanone | 6.1 g | C(C1=CC=CC=C1)OC1CCC(CC1)=O | C13H16O2
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 4-benzyloxy-cyclohexanecarbaldehyde | 5.7 g | C(C1=CC=CC=C1)OC1CCC(CC1)C=O | C14H18O2
